US08476301B2
(3RS,4SR)-1-[(Benzyloxy)carbonyl]-3-[2-(tert-butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid
A 2 N aqueous sodium hydroxide solution (20.2 ml) was added to a mixture of (3RS,4SR)-3-[2-(tert-butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid obtained in Reference Example 1a (9.84 g, 40.5 mmol), acetone (39 ml) and water (49 ml) with stirring under ice-cooling (0 to 1° C.), and the reaction mixture was dissolved by stirring for 45 minutes. Benzyl chloroformate (6.35 ml, 44.5 mmol) and a 2 N aqueous sodium hydroxide solution (22.3 ml) were simultaneously added dropwise to the reaction mixture at an internal temperature of 3.5° C. or lower with stirring under ice-cooling (0 to 1° C.) over 20 minutes. The reaction liquid was stirred in an ice bath and gradually returned to mom temperature. This was stirred at mom temperature overnight. A 1N aqueous sodium hydroxide solution (10 ml) was added to the reaction liquid with stirring under ice-cooling (internal temperature: about 15° C.), and the mixture was adjusted to pH 12. This reaction liquid was returned to room temperature and washed three times by adding ethyl ether. The aqueous layer was adjusted to pH 2 to 3 by sequentially adding a 2 N aqueous hydrochloric acid solution (20.2 ml) and a 1N aqueous hydrochloric acid solution (13 ml) with stirring under ice-cooling (internal temperature: 5° C. or lower). The aqueous layer was returned to mom temperature and extracted with ethyl acetate three times. The organic layer was washed with brine, and then dried over sodium sulfate, filtered and concentrated. The residue was dissolved in ethyl acetate, washed with water four times and then with brine, dried over sodium sulfate, filtered and concentrated to give the title compound (14.53 g, yield: 95.1%).

reactant | sodium hydroxide | 2 N, 20.2 ml | [OH-].[Na+]
reactant | (3RS,4SR)-3-[2-(tert-butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid | C(C)(C)(C)OC(CC1(CNCC1C)C(=O)O)=O | C12H21NO4
reactant | acetone | 39 ml | CC(=O)C | C3H6O
reactant | Benzyl chloroformate | 44.5 mmol, 6.35 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydroxide | 2 N, 22.3 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | water | 49 ml | O | H2O
product | (3RS,4SR)-1-[(Benzyloxy)carbonyl]-3-[2-(tert-butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid | 14.53 g, yield: 95.1% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)C)(C(=O)O)CC(=O)OC(C)(C)C | C20H27NO6
